US07115762B2
Compound 5 (30 mg, 2 μmol Pd), 1-(4-bromophenyl)ethan-1-one (0.20 g, 1 mmol), phenylboronic acid (0.15 g, 1.2 mmol), potassium carbonate (0.21 g, 1.5 mmol), and o-xylene (3 mL) were sequentially added to a 15 mL septum-sealed test tube under protection of nitrogen. The mixture was then heated at 130° C. for 5 h. After it was cooled to the room temperature, 8 mL of anhydrous ether was added to precipitate compound 5. The mixture was centrifuged and f the upper liquid layer was transferred via a syringe into a 20 mL round-bottom flask. Repeated the above precipitation procedure once. The combined liquid layer was concentrated under reduced pressure to give an oily residue. A saturated ammonium chloride solution (5 mL) was then added. The resulting mixture was extracted by ethyl acetate (10 mL×3), dried over anhydrous magnesium sulfate, filtrated, and concentrated to give a crude product. The crude product was further purified by column chromatography (silica gel, hexane/ethyl acetate=4/1) to give 0.20 g (99% yield) of 4-acetylbiphenyl. 1H NMR (300 MHz, DMSO-d6) δ 2.61 (s, 3H), 7.42–7.44 (m, 1H), 7.48–7.51 (m, 2H), 7.73 (d, J=8.5 Hz, 2H), 7.81 (d, J=8.5 Hz, 2H), 7.69 (d, J=8.5 Hz, 2H) ppm.

reactant | 1-(4-bromophenyl)ethan-1-one | 1 mmol, 0.20 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | phenylboronic acid | 1.2 mmol, 0.15 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 1.5 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | ether | 8 mL | CCOCC | C4H10O
solvent | o-xylene | 3 mL | CC=1C=CC=CC1C | C8H10
product | 4-acetylbiphenyl | 0.20 g, 99% yield | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
